US05571689
5-(Tetrahydropyranyl)oxypentan-1-ol (4 )
To a mixture of pentane-1,5-diol(5.2 g, 0.05 mol) and p-toluenesulfonic acid (0.1g, 0.53 mmol) in CH2Cl2 (120 mL) was added slowly dihydro-2H-pyran (4.6 g, 0.055 mol) in CH2Cl2 (30 mL) at 0° C. After stirring for 2 h at 0° C. and for another 1 h at room temperature, saturated NaHCO3 (50 mL ) was added to the reaction mixture. The CH2Cl2 layer was washed with saturated NaHCO3 (50 mL), water (50 mL), and dried (MgSO4). The residue was purified by column chromatography on silica gel with EtOAc:hexane (1:1, v/v) and subsequent Kugelrohr distillation to give the title product (4, 5.1 g, 54%); bp 80°-85° C./0.1 torr; IR(neat): 3450 (broad) and 1135 cm-1 ; 1H NMR: 1.3-1.9 (m, 12H), 2.4 (b s, 1H ), 3.3-3.9 ( m, 6H ), and 4.58 ppm (m, 1H ).

reactant | pentane-1,5-diol | 0.05 mol, 5.2 g | C(CCCCO)O | C5H12O2
reactant | dihydro-2H-pyran | 0.055 mol, 4.6 g | O1CCCC=C1 | C5H8O
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | p-toluenesulfonic acid | 0.53 mmol, 0.1g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 5-(Tetrahydropyranyl)oxypentan-1-ol | 5.1 g, 54% | O1C(CCCC1)OCCCCCO | C10H20O3
